US04460788
A mixture of 200 parts of phenol, 150 parts of a tetrachloronitrobenzene/pentachloronitrobenzene mixture and 20 g of a 1% strength palladium/charcoal catalyst is first reduced with hydrogen at from 60° to 70° C. and under 10 bar in a tantalum autoclave, in the course of 6 hours, while stirring. Thereafter, the temperature is increased to 170° C. and the dehalogenation is carried out under a maximum total pressure of 50 bar in the course of 8 hours, while stirring further. After the reaction mixture has been worked up, 86 parts of 3,5-dichloroaniline are obtained by distillation. 94% yield.

reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | tetrachloronitrobenzene pentachloronitrobenzene | ClC=1C(=C(C(=C(C1)[N+](=O)[O-])Cl)Cl)Cl.ClC1=C(C(=C(C(=C1[N+](=O)[O-])Cl)Cl)Cl)Cl
reactant | hydrogen | [H][H] | H2
catalyst | palladium/charcoal | [Pd] | Pd
catalyst | tantalum | [Ta] | Ta
product | 3,5-dichloroaniline | 94% yield | ClC=1C=C(N)C=C(C1)Cl | C6H5Cl2N
